US07384967B2
3-Cyclopentanesulfanyl-4-nitrotoluene (0.47 g, 2.0 mmol) was oxidized to 3-cyclopentanesulfinyl-4-nitrotoluene (0.46 g, 91%) following general procedure R (using one equivalent of m-CPBA). 3-Cyclopentanesulfinyl-4-nitrotoluene was reduced to 2-cyclopentanesulfinyl-4-methyl-aniline (0.33 g, 81%) following general procedure C. 1-(2-Cyclopentanesulfinyl-4-methyl-phenyl)-3-thiazol-2-yl-urea (225 mg, 65%) was prepared from 2-cyclopentanesulfinyl-4-methyl-aniline (223 mg, 1.0 mmol) and 2-aminothiazole (100 mg, 1.0 mmol) following the general procedure D.

reactant | 3-cyclopentanesulfinyl-4-nitrotoluene | 0.46 g | C1(CCCC1)S(=O)C=1C=C(C=CC1[N+](=O)[O-])C | C12H15NO3S
reactant | m-CPBA | one equivalent | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-cyclopentanesulfinyl-4-methyl-aniline | 0.33 g | C1(CCCC1)S(=O)C1=C(N)C=CC(=C1)C | C12H17NOS
reactant | 2-cyclopentanesulfinyl-4-methyl-aniline | 1.0 mmol, 223 mg | C1(CCCC1)S(=O)C1=C(N)C=CC(=C1)C | C12H17NOS
reactant | 2-aminothiazole | 1.0 mmol, 100 mg | NC=1SC=CN1 | C3H4N2S
product | 1-(2-Cyclopentanesulfinyl-4-methyl-phenyl)-3-thiazol-2-yl-urea | 225 mg, 65% | C1(CCCC1)S(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=CN1 | C16H19N3O2S2
